US06265569B1
A suspension of lithium acetylide ethylenediamine complex (Aldrich, 11.3 g, 122.5 mmol) and dimethyl sulfoxide (50 ml) was cooled to 5-10° C., and added dropwise with 1-bromo-6-tetrahydropyranyloxyhexane (Sigma, 25 g, 94.3 mmol) over two hours. Then, the reaction mixture was stirred at room temperature for two hours. The reaction mixture was added with water (10 ml), stirred for ten minutes, then poured into water (150 ml), and extracted with ether (300 ml). The ether layer was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to afford 18.1 g of 8-(tetrahydropyranyloxy)-1-octyne as oil (yield; 91.2%). Dowex 50WX8 (H+ type, 18 g) was added to a mixture of 8-(tetrahydropyranyloxy)-1-octyne (18 g, 85.6 mmol), chloroform (40 ml) and methanol (140 ml), and heated for 1 hour under reflux. After the resin was separated by filtration, the filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (eluent; hexane-ethyl acetate mixed solvent) to afford 9.6 g of 7-octyn-1-ol (yield; 88.6%).

reactant | 8-(tetrahydropyranyloxy)-1-octyne | 85.6 mmol, 18 g | O1C(CCCC1)OCCCCCCC#C | C13H22O2
reactant | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 140 ml | CO | CH4O
product | 7-octyn-1-ol | 9.6 g, yield; 88.6% | C(CCCCCC#C)O | C8H14O
